US07718692B2
B. 1H-Indazole-3-carboxylic acid (4-hydroxy-phenyl)-amide
This compound was prepared from 1H-Indazole-3-carboxylic acid (4-benzyloxy-phenyl)-amide, using the same method used to prepare (S)-pyrrolidine-2-carboxylic acid (4-hydroxy-phenyl)-amide. The product was purified by flash chromatography, on silica gel, eluted with 5 to 10% methanol in DCM, to give the product as an off white solid, 2.6 g (60% for 2 steps). MS m/z 254 (MH+). 1H NMR(DMSO-d6) δ 6.74 (d, 2H), 7.26-7.34 (m, 1H), 7.43-7.51 (m, 1H), 7.67-7.73 (m, 3H), 8.24 (d, 1H), 9.25 (s, 1H), 10.10 (s, 1H) and 13.72 (s, 1H). Anal. calcd for C14H11N3O2: C, 66.40; H, 4.38; N, 16.59. Found: C, 66.15; H, 4.20; N, 16.82.

reactant | 1H-Indazole-3-carboxylic acid (4-benzyloxy-phenyl)-amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NNC2=CC=CC=C12 | C21H17N3O2
reactant | (S)-pyrrolidine-2-carboxylic acid (4-hydroxy-phenyl)-amide | OC1=CC=C(C=C1)NC(=O)[C@H]1NCCC1 | C11H14N2O2
product | 1H-Indazole-3-carboxylic acid (4-hydroxy-phenyl)-amide | OC1=CC=C(C=C1)NC(=O)C1=NNC2=CC=CC=C12 | C14H11N3O2
